US07528138B2
4-Pyridin-2-yl-1H-pyrazole-3,5-diamine
A mixture of 2-pyridin-2-yl-malononitrile (0.65 g, 4.59 mmol) and hydrazine hydrate (225 μL, 4.59 mmol) in EtOH (5 mL) was heated to reflux and stirred for 16 hours. The reaction mixture was cooled down to room temperature and filtered. The resulting solid was washed with Et2O to provide the title compound as a light tan solid (0.42 g, 52%). The filtrate was evaporated to dryness and purified by silica gel chromatography eluting with NH4OH:MeOH:CH2Cl2 (0.5:5:95) to give a further 63.3 mg (8%) of the desired product. MS (ES+) 176, (ES−) 174. δH (DMSO-d6) 5.45 (4H, br s), 6.98 (1H, t), 7.57 (1H, d), 7.69 (1H, t), 8.46 (1H, d), 10.55 (1H, br s).

reactant | 2-pyridin-2-yl-malononitrile | 4.59 mmol, 0.65 g | N1=C(C=CC=C1)C(C#N)C#N | C8H5N3
reactant | hydrazine hydrate | 4.59 mmol, 225 μL | O.NN
solvent | EtOH | 5 mL | CCO | C2H6O
product | 4-Pyridin-2-yl-1H-pyrazole-3,5-diamine | 0.42 g, 52% | N1=C(C=CC=C1)C=1C(=NNC1N)N | C8H9N5
